US03965113
4.8 G. of 1-amino-2-nitro-4-phenoxybenzene is hydrogenated in 100 ml. methanol at 1 atmosphere pressure, in the presence of 1 g. of 5% palladized carbon, until the theoretical uptake of hydrogen has occurred. The catalyst is removed by filtration and the filtrate evaporated to give 1,2-diamino-4-phenoxybenzene.

reactant | 1-amino-2-nitro-4-phenoxybenzene | NC1=C(C=C(C=C1)OC1=CC=CC=C1)[N+](=O)[O-] | C12H10N2O3
reactant | hydrogen | [H][H] | H2
solvent | methanol | CO | CH4O
product | 1,2-diamino-4-phenoxybenzene | NC1=C(C=C(C=C1)OC1=CC=CC=C1)N | C12H12N2O
